US05578620
3-(3-Dimethylaminophenoxy)-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 2.41 g of 3-(3-dimethylaminophenoxy)-2-hydroxypropylazide (prepared as described in Preparation 80), 0.76 g of lithium aluminum hydride and 50 ml of anhydrous tetrahydrofuran were used, to give 1.80 g of the title compound having an Rf value of 0.9 (on silica gel thin layer chromatography, using a 4:1 by volume mixture of ethyl acetate and ethanol as the developing solvent).

reactant | 3-(3-dimethylaminophenoxy)-2-hydroxypropylazide | 2.41 g | CN(C=1C=C(OCC(CN=[N+]=[N-])O)C=CC1)C | C11H16N4O2
reactant | lithium aluminum hydride | 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(3-Dimethylaminophenoxy)-2-hydroxypropylamine | 1.80 g | CN(C=1C=C(OCC(CN)O)C=CC1)C | C11H18N2O2
